US08895582B2
To a mixture of (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate (0.40 g, 0.792 mmol), DIEA (0.276 mL, 1.58 mmol) and THF (2 mL), ethyl isocyanatoacetate (0.108 mL, 0.950 mmol) was added. The mixture was refluxed for 30 min, and concentrated. The remaining residue was purified on silica gel column (DCM/MeOH) to give (S)-ethyl 1-(2-chloro-3-fluorophenyl)-5-((6-fluoroisoquinolin-3-ylcarbamoyloxy)methyl)-4-methyl-3,10-dioxo-2,4,9,11-tetraazatridecan-13-oate (0.40 g, 80%). LRMS (M+H+) m/z 635.6.

reactant | (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 0.792 mmol, 0.40 g | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CCCN)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H26ClF2N5O3
reactant | DIEA | 1.58 mmol, 0.276 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl isocyanatoacetate | 0.950 mmol, 0.108 mL | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 1-(2-chloro-3-fluorophenyl)-5-((6-fluoroisoquinolin-3-ylcarbamoyloxy)methyl)-4-methyl-3,10-dioxo-2,4,9,11-tetraazatridecan-13-oate | 0.40 g, 80% | ClC1=C(C=CC=C1F)CNC(N([C@@H](CCCNC(NCC(=O)OCC)=O)COC(NC=1N=CC2=CC=C(C=C2C1)F)=O)C)=O | C29H33ClF2N6O6
